US05591752
11-(2-Carboxyethylthio)-2-(7-chloro-6-ethylthioquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 337)
2-(7-Chloro-6-ethylthioquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine and 3-mercaptopropionic acid were used and reacted in the same manner as in Example 1 to obtain the title compound.

reactant | 2-(7-Chloro-6-ethylthioquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine | ClC1=C(C=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2O)C=CC=C3)C=C1)SCC | C26H22ClNO3S
reactant | 3-mercaptopropionic acid | SCCC(=O)O | C3H6O2S
product | 11-(2-Carboxyethylthio)-2-(7-chloro-6-ethylthioquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C(=O)(O)CCSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC(=C(C=C3C=C2)SCC)Cl | C29H26ClNO4S2
